US08623919B2
Synthesis of S-ethyl-L-cysteine (SEC)
SEC is synthesized from L-cysteine hydrochloride (1.58 g, 0.01 mol) and ethyl bromide (1.09 g, 0.01 mol) with the following steps. The reaction mixture is diluted with water in a titration manner until a clear solution is formed. No more than necessary amount of water should be added to further dilute the mixture. Ammonia water was added to PH 9.5-10 with stirring at room temperature. After 2 hours reaction, the mixture is acidified with acetic acid to PH 5-5.5. The desired product was cooled in the refrigerator, filtered and washed successively with water and ethyl ether. The chemical structure of SEC is determined by Proton Nuclear Magnetic Resonance Spectroscopy.

reactant | L-cysteine hydrochloride | 0.01 mol, 1.58 g | Cl.N[C@@H](CS)C(=O)O
reactant | ethyl bromide | 0.01 mol, 1.09 g | C(C)Br | C2H5Br
reactant | Ammonia water | O.N
reactant | acetic acid | C(C)(=O)O | C2H4O2
solvent | water | O | H2O
product | S-ethyl-L-cysteine | C(C)SC[C@H](N)C(=O)O | C5H11NO2S
